US04681884
The starting compound is prepared as follows. A solution of 2-amino-4-methylpyrimidine (21.8 g) and p-nitrobenzaldehyde (30.2 g) in formic acid (45 ml) is refluxed (24 hours). After cooling, the reaction mixture is poured into water (1 liter), and the aqueous mixture is neutralized with a 5N sodium hydroxide solution. The crude product is extracted with chloroform, and the extract is dried over sodium sulfate and concentrated to dryness. The crude product is purified on a silica gel column to give 4-[2-(p-nitrophenyl)ethenyl]-2-aminopyrimidine (27.8 g), m.p. 214°-216° C., which is used for the next step without purification.

reactant | 2-amino-4-methylpyrimidine | 21.8 g | NC1=NC=CC(=N1)C | C5H7N3
reactant | p-nitrobenzaldehyde | 30.2 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | water | 1 liter | O | H2O
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | formic acid | 45 ml | C(=O)O | CH2O2
product | 4-[2-(p-nitrophenyl)ethenyl]-2-aminopyrimidine | 27.8 g | [N+](=O)([O-])C1=CC=C(C=C1)C=CC1=NC(=NC=C1)N | C12H10N4O2
